US04448772
A mixture of 1-[[methyl[[ethoxy(4-phenylbutyl)phosphinyl]methyl]amino]carbonyl]-L-proline, phenylmethyl ester, dry dichloromethane, and trimethylsilylbromide is stirred under argon at room temperature for several hours. The dichloromethane and excess trimethylsilylbromide are removed in vacuo and the residue is partitioned between ethyl acetate/water. The organic phase is washed with brine, dried, and evaporated to give 1-[[methyl[[hydroxy(4-phenylbutyl)phosphinyl]methyl]amino]carbonyl]-L-proline, phenylmethyl ester.

reactant | 1-[[methyl[[ethoxy(4-phenylbutyl)phosphinyl]methyl]amino]carbonyl]-L-proline, phenylmethyl ester | CN(C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)CP(=O)(CCCCC1=CC=CC=C1)OCC | C27H37N2O5P
reactant | trimethylsilylbromide | C[Si](C)(C)Br | C3H9BrSi
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[[methyl[[hydroxy(4-phenylbutyl)phosphinyl]methyl]amino]carbonyl]-L-proline, phenylmethyl ester | CN(C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)CP(=O)(CCCCC1=CC=CC=C1)O | C25H33N2O5P
